US06803378B2
Intermediate 80A 3,3-bis-(4-fluorophenyl)-propionic acid ethyl ester
A suspension of zinc (5.7 g, 87.2 mmol) in dichloromethane (20 ml) was treated with iodine (0.1 g) and heated under reflux. A solution of ethyl bromoacetate (10.0 g, 59.8 mmol) in dichloromethane was then added dropwise over 15 min and the resulting mixture was heated for another 15 min. The thick paste was then cooled to 0-5° C. and treated dropwise with a solution of 4,4′-difluorobenzhydryl chloride (11.93 g, 50.0 mmol) in dichloromethane (20 ml). The cooling bath was then removed and the mixture was stirred at 22° C. for another 2 h. The reaction mixture was quenched by the addition of 1N hydrochloric acid and ethyl acetate. The organic phase was washed with water, saturated sodium bicarbonate, brine and dried (magnesium sulfate). Evaporation of the solvent under reduce pressure and distillation of the residue in vacuo gave 11.6 g (80%) of the title material as a clear oil: bp 95-100° C./0.1 torr (bulb to bulb distillation, air bath temperature). 1HNMR 400 MHz (CDCl3) δ (ppm): 1.14 (3H, t, J=7.1 Hz, CH3), 3.01 (2H, d, J=8.1 Hz, CH2), 4.06 (2H, q, J=7.1 Hz, CH2), 4.54 (1H, t, J=8.1 Hz, CH),7.0 (4H, m, aromatics), 7.2 (4H, m, aromatics). Anal. Calcd for C17H16F2O2: C, 70.34; H, 5.56. Found: C, 70.44; H, 5.50.

reactant | ethyl bromoacetate | 59.8 mmol, 10.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | 4,4′-difluorobenzhydryl chloride | 50.0 mmol, 11.93 g | FC1=CC=C(C(C2=CC=C(C=C2)F)Cl)C=C1 | C13H9ClF2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | zinc | 87.2 mmol, 5.7 g | [Zn] | Zn
catalyst | iodine | 0.1 g | II | I2
product | 3,3-bis-(4-fluorophenyl)-propionic acid ethyl ester | 11.6 g, 80% | C(C)OC(CC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C17H16F2O2
